Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
decreased urine output
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ year old male with a PMHx of hypertension, 
Crohn's disease, and hyperlipidemia who presents with several 
days of poor urine output, dysuria, and mild abdominal bloating. 
He has had some low grade fevers.

He denies any history of urologic procedures. He denies back 
pain, nausea, vomiting, diarrhea. He was seen at his PCP office 
today and was referred to the ED.

In the ED here, initial vitals were:
T99.8 (Tmax 100.8), HR 108, BP 137/74, 16, 100% on RA but 
desatted to 92% after 1L IVF.

Exam was notable for a non-tender prostate.

Labs were notable for a Cr of 1.3, K of 3.2, UA had a WBC of 
135, RBC of 24, nitrite positive.

The patient was given 1L IVF, ceftriaxone 1g IV, acetaminophen 
and potassium. He was admitted to medicine for sepsis from a 
urinary tract infection.

 
Past Medical History:
-Crohn's
-Hypertension
-Hyperlipidemia
-Gout
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
VITALS: 99.5 PO 127 / 61 105 18 94 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, no conjunctival injection, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesions, erythema or exudate.
CV: Heart regular, no murmur, no S3, no S4.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-tender, non-distended.  No rebound or 
guarding.
GU: No suprapubic fullness or tenderness to palpation.
EXT: warm and well perfused, no ___ edema
SKIN: No rashes or ulcerations noted.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs
PSYCH: pleasant, appropriate mood and affect
 
Pertinent Results:
ADMISSION LABS:
=====================
___ 11:43AM BLOOD WBC-17.2* RBC-4.13* Hgb-12.6* Hct-37.9* 
MCV-92 MCH-30.5 MCHC-33.2 RDW-14.3 RDWSD-48.0* Plt ___
___ 11:43AM BLOOD Neuts-88.2* Lymphs-4.4* Monos-6.6 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-15.13* AbsLymp-0.76* 
AbsMono-1.13* AbsEos-0.00* AbsBaso-0.04
___ 11:43AM BLOOD Glucose-140* UreaN-20 Creat-1.3* Na-134* 
K-3.2* Cl-91* HCO3-28 AnGap-15
___ 11:43AM BLOOD ALT-23 AST-24 AlkPhos-67 TotBili-1.0
___ 11:33AM BLOOD Lactate-1.7

DISCHARGE LABS:
=====================
___ 07:03AM BLOOD WBC-12.4* RBC-3.59* Hgb-11.1* Hct-33.5* 
MCV-93 MCH-30.9 MCHC-33.1 RDW-14.5 RDWSD-49.4* Plt ___
___ 07:03AM BLOOD Plt ___
___ 07:03AM BLOOD Glucose-132* UreaN-19 Creat-1.4* Na-140 
K-3.3 Cl-99 HCO3-28 AnGap-13
___ 07:03AM BLOOD Calcium-8.1* Phos-2.1* Mg-2.___ male with a past medical history of Crohn's, hypertension, 
HLD who presented with sepsis ___ urinary tract infection.

#Sepsis - patient with fever, tachycardia
#Urinary tract infection - dysuria, positive UA
He reported one day history is painful, burning urination 
associated with decreased urine output. UA was grossly positive. 
There was no evidence for prostatitis based on the exam in the 
ED. Patient was given 1g IV ceftriaxone in the emergency room 
and admitted for further care. On the acute care floor, he was 
started on ciprofloxacin. On day of discharge, he was 
asymptomatic, afebrile and had a downtrending leukocytosis. UC 
was pending at the time of discharge. Due to response to 
treatment, it is assumed the causative bacteria is sensitive to 
quinolones. 

Transitional issues:
- f/u results of urine CS (PCP emailed regarding this pending 
test)  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 
3. amLODIPine 7.5 mg PO DAILY 
4. Simvastatin 20 mg PO QPM 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Mesalamine 1000 mg PO TID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*14 Tablet Refills:*0 
2.  Allopurinol ___ mg PO DAILY  
3.  amLODIPine 7.5 mg PO DAILY  
4.  Atenolol 25 mg PO DAILY  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  Mesalamine 1000 mg PO TID  
7.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
sepsis
urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for a urinary tract infection. 
You were started on antibiotics and improved. You are being 
discharged to home to complete a 7-day course of antibiotics.
 
Followup Instructions:
___